* source CLIPPER
R_R1         IN MID  1k TC=0,0 
R_R2         MID VCC  1k TC=0,0 
R_R3         0 MID  1k TC=0,0 
R_R4         0 OUT  1k TC=0,0 
D_D1         MID VCC D1N3940 
D_D2         0 MID D1N3940 
V_V2         IN 0 DC 0Vdc AC 1Vac 
V_V1         VCC 0 5
C_C1         MID OUT  0.47u  TC=0,0 
