* source DIGIMON
X_U1         N00264 $D_HI $D_HI $D_HI $D_HI $D_LO $D_LO $D_LO M_UN0001 QOUT0
+  QOUT1 QOUT2 QOUT3 N00489 $G_DPWR $G_DGND 74163 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2         N00264 $D_HI N00489 $D_HI $D_HI $D_LO $D_LO $D_LO $D_LO QOUT4
+  QOUT5 QOUT6 QOUT7 M_UN0002 $G_DPWR $G_DGND 74163 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND N00264 IO_STM STIMULUS=Digi
