* source LOWPASS
E_E1         OUT 0 FREQ { V(N00170, 0) } =    ( (0,0,0) (5KHz, 0, -5760) (6KHz,
+  -60, -6912) ) 
V_V1         N00170 0 DC 0Vdc AC 1Vac 
R_R1         0 OUT  1k  
