* source THERMOSTAT
D_D1         +15V 0 D1N4148_1 
R_R1         +15V +15V  1k  
X_R2         0 N00984 N00722 POT PARAMS: SET=0.5 VALUE=1K
X_D2         0 N00722 D1N821
X_U1         N00984 N00971 +15V -15V V1 AD741
V_V2         +15V 0 15V
V_V3         -15V 0 -15V
X_R3         +15V N00971 V1 POT PARAMS: SET=0.5 VALUE=1K
R_R4         N00722 +15V  1k  
