* source VCO
E_E1         OUT 0 VALUE { sin(twopi*(fc*time+v(INT))) }
R_R1         0 OUT  1k  
C_C1         0 INT  1u  
R_R2         0 INT  1g  
G_G1         0 INT VALUE { K1*v(CTRL)*1u }
V_V1         CTRL 0   PWL    
+ 0 0 5u 0 5.01u 1  
.IC         V(INT )=0
.PARAM  twopi=6.283 fc=1meg k1=1meg
