* source W_EVALUE
E_E1         N00245 0 VALUE { ABS(V(IN))*GAIN }
R_R1         0 N00245  1k  
V_V1         IN 0   STIMULUS=sin10
R_R2         0 IN  1k  
.PARAM  gain=1
