* source BUFFER
R_R1         IN N00185  1k TC=0,0 
R_R2         0 N00185  1k TC=0,0 
V_V1         IN 0   STIMULUS=MYPULSE
X_U1         0 N01221 VDD VCC N01196 LF411
V_V2         VDD 0 16V
V_V3         VCC 0 -16V
R_R3         N01221 N00185  1k TC=0,0 
R_R4         N01196 N01221  1k TC=0,0 
R_R5         N01202 N01196  1k TC=0,0 
C_C1         0 N00185  1n  TC=0,0 
C_C2         0 N01202  {CVAL}  TC=0,0 
.PARAM  cval=1n
