* source BUFFER3
X_U1         N00546 N00539 VDD VSS BUFFER 
R_R1         N00501 N00539  1k  
C_C1         0 N00501  1n  TC=0,0 
V_V2         VSS 0 -15Vdc
V_V3         VDD 0 15Vdc
V_V4         N00546 0   STIMULUS=Mypulse
