* source BUFFER2
.SUBCKT Buffer IN out VDD VSS  
R_R1         IN N00185  1k TC=0,0 
R_R2         N00174 N00185  1k TC=0,0 
X_U1         0 N01221 VDD VSS OUT LF411
R_R3         N01221 N00185  1k TC=0,0 
R_R4         OUT N01221  1k TC=0,0 
C_C1         N00174 N00185  1n  TC=0,0 
.ENDS
.PARAM  cval=1n
