* source HIER_CLIP
.EXTERNAL INPUT IN
.EXTERNAL OUTPUT MID
.EXTERNAL OUTPUT OUT
R_R1         IN MID  1k  
R_R2         MID VCC  1k  
R_R3         0 MID  1k  
R_R4         0 OUT  1k  
D_D1         MID VCC D1N3940 
D_D2         0 MID D1N3940 
C_C1         MID OUT  0.47u  
V_V1         VCC 0 5Vdc
