* source HIER_CLIP
C_U1_C1         N00171 N00164  0.47u  
D_U1_D2         0 N00171 D1N3940 
D_U1_D1         N00171 U1_VCC D1N3940 
R_U1_R4         0 N00164  1k  
R_U1_R3         0 N00171  1k  
R_U1_R2         N00171 U1_VCC  1k  
V_U1_V1         U1_VCC 0 5Vdc
R_U1_R1         N00150 N00171  1k  
V_V1         N00150 0 DC 0Vdc AC 1Vac 
R_R1         0 N00164  10G  
R_R2         0 N00171  10G  
