* PSpice Model Editor - Version 17.2.0
*$
*b Device model created by analog_uprev for 2n5179 on Fri Feb  2 18:03:16 IST 2001
* created using Model Editor release 24.1.0 on 04/05/25 at 23:49
*DEVICE=awbmy2n5179,NPN
.subckt awbmy2n5179 C B E 
+ params:
+ IC_VBE=0 
+ IC_VCE=0 
+ AREA=1.0
+ IS=4.479E-15
+ BF=83
+ NF=1.07
+ VAF=24
+ IKF=100E-3
+ ISE=347.1E-12
+ NE=3.66
+ BR=1.0
+ NR=1.07
+ VAR=500
+ ISC=0
+ NC=1.0
+ RB=36
+ RBM=36
+ RE=0.5
+ RC=1.0
+ CJE=0.91E-12
+ VJE=0.661
+ MJE=0.294
+ TF=112E-12
+ XTF=0.12
+ ITF=0
+ PTF=0
+ CJC=0.835E-12
+ VJC=1.0
+ MJC=0.28
+ XCJC=0.5
+ TR=1E-9
+ CJS=0
+ VJS=0.7
+ MJS=0.5
+ XTB=2.3
+ EG=1.11
+ XTI=3.0
+ KF=0
+ AF=1
+ FC=0.5
Q_awbmy2n5179 C B E model4 {area} ic= {UIC(ic_vbe)}, {UIC(ic_vce)}
.model model4 npn
+ is={IS}
+ bf={BF}
+ nf={NF}
+ vaf={VAF}
+ ikf={IKF}
+ ise={ISE}
+ ne={NE}
+ br={BR}
+ nr={NR}
+ var={VAR}
+ isc={ISC}
+ nc={NC}
+ rb={RB}
+ rbm={RBM}
+ re={RE}
+ rc={RC}
+ cje={CJE}
+ vje={VJE}
+ mje={MJE}
+ tf={TF}
+ xtf={XTF}
+ itf={ITF}
+ ptf={PTF}
+ cjc={CJC}
+ vjc={VJC}
+ mjc={MJC}
+ xcjc={XCJC}
+ tr={TR}
+ cjs={CJS}
+ vjs={VJS}
+ mjs={MJS}
+ xtb={XTB}
+ eg={EG}
+ xti={XTI}
+ kf={KF}
+ af={AF}
+ fc={FC}
.ends awbmy2n5179
*
*
*$
*b Device model created by analog_uprev for 2n3724 on Fri Feb  2 18:03:16 IST 2001
* created using Model Editor release 24.1.0 on 04/05/25 at 23:44
*DEVICE=awbmy2n3724,NPN
.subckt awbmy2n3724 C B E 
+ params:
+ IC_VBE=0 
+ IC_VCE=0 
+ AREA=1.0
+ IS=10.0E-15
+ BF=138
+ NF=1
+ VAF=65
+ IKF=371E-3
+ ISE=29.40E-12
+ NE=2.1335
+ BR=1
+ NR=1
+ VAR=50
+ IKR=80E-3
+ ISC=0
+ NC=2
+ RB=1.0
+ RBM=1
+ RE=0.01
+ RC=0.42
+ CJE=63.34E-12
+ VJE=0.55
+ MJE=0.3546
+ TF=438.1E-12
+ XTF=5
+ VTF=10
+ ITF=7
+ PTF=0.0
+ CJC=12.46E-12
+ VJC=0.55
+ MJC=0.2977
+ XCJC=0.5
+ TR=77.3E-9
+ CJS=0
+ VJS=0.7
+ MJS=0.5
+ XTB=1.5815
+ EG=1.11
+ XTI=3.0
+ KF=0
+ AF=1
+ FC=0.5
Q_awbmy2n3724 C B E model4 {area} ic= {UIC(ic_vbe)}, {UIC(ic_vce)}
.model model4 npn
+ is={IS}
+ bf={BF}
+ nf={NF}
+ vaf={VAF}
+ ikf={IKF}
+ ise={ISE}
+ ne={NE}
+ br={BR}
+ nr={NR}
+ var={VAR}
+ ikr={IKR}
+ isc={ISC}
+ nc={NC}
+ rb={RB}
+ rbm={RBM}
+ re={RE}
+ rc={RC}
+ cje={CJE}
+ vje={VJE}
+ mje={MJE}
+ tf={TF}
+ xtf={XTF}
+ vtf={VTF}
+ itf={ITF}
+ ptf={PTF}
+ cjc={CJC}
+ vjc={VJC}
+ mjc={MJC}
+ xcjc={XCJC}
+ tr={TR}
+ cjs={CJS}
+ vjs={VJS}
+ mjs={MJS}
+ xtb={XTB}
+ eg={EG}
+ xti={XTI}
+ kf={KF}
+ af={AF}
+ fc={FC}
.ends awbmy2n3724
*
*
*$
.model D1N755	D(Is=2.077f Rs=2.467 Ikf=0 N=1 Xti=3 Eg=1.11 Cjo=104p M=.5061
+		Vj=.75 Fc=.5 Isr=1.645n Nr=2 Bv=7.5 DEV/UNIFORM 10%/10% Ibv=2.5701 Nbv=.39227
+		Ibvl=4.0222e-5 Nbvl=.25042 Tbv1=533.33u)
*		Motorola	pid=1N755	case=DO-35
*		89-9-18 gjg
*		Vz = 7.5 @ 20mA, Zz = 12.5 @ 1mA, Zz = 5.3 @ 5mA, Zz = 2.3 @ 20mA
*$
.model Q2N3724	NPN(Is=1.608p Xti=3 Eg=1.11 Vaf=100 Bf=169 Ne=1.29 Ise=1.608p
+		Ikf=.9625 Xtb=1.5 Br=19.18m Nc=2 Isc=0 Ikr=0 Rc=.6 Cjc=9.293p
+		Mjc=.256 Vjc=.75 Fc=.5 Cje=52.8p Mje=.4351 Vje=.75 Tr=3.85u
+		Tf=300.5p Itf=.45 Vtf=6 Xtf=1.5 Rb=10)
*		National	pid=25		case=TO39
*		88-09-07 bam	creation
*$
.model Q2N5179	NPN(Is=4.479E-15 Xti=3 Eg=1.11 Vaf=24 Bf=83 Ne=3.66
+		Ise=347.1E-12 Ikf=100E-3 Xtb=2.3 Br=1.0 Nc=1 Isc=0 Ikr=100Meg Rc=1
+		Cjc=.835E-12 Mjc=.28 Vjc=1.0 Fc=.5 Cje=.91E-12 Mje=.294 Vje=.661
+		Tr=1E-9 Tf=112E-12 Itf=0 Vtf=100Meg Xtf=.12 Rb=36)
*		National	pid=42		case=TO72
*		88-09-07 bam	creation
*$
