* source XFORMER2
L_L1         N00212 N00332  10uH  
L_L2         0 N00212  10uH  
L_L3         N00256 0  10uH  
R_R1         N00256 N00263  1k  
R_R2         N00332 0  1k  
R_R3         N00212 0  1k  
Kn_K1         L_L3 L_L1 
+ L_L2    0.99
V_V1         N00263 0  
+SIN 0 100 60 0 0 0
